US07393858B2
Methanesulfonic acid [(2R,3R,4R)-2-[(1R)-1-(3,5-Bis(trifluoromethyl)-phenyl)ethoxy]-3-(3,4-difluorophenyl)-tetrahydropyran-4-yl]methyl ester
Methanesulfonyl chloride (50 μl, 0.63 mmol) was added to a mixture of [(2R,3R,4R)-2-[(1R)-1-(3,5-bis(trifluoromethyl)phenyl)ethoxy]-3-(3,4-difluorophenyl)-tetrahydropyran-4-yl]methanol (Description 15; 235 mg, 0.49 mmol), triethylamine (133 ml, 0.97 mmol), 4-N,N-dimethylaminopyridine (3 mg, 0.02 mmol) and dichloromethane (5 ml) at 0° C. The mixture was stirred for 30 minutes, then quenched with saturated aqueous NaHCO3 and extracted into dichloromethane. The combined organic extracts were dried and concentrated. The product was used in the next step without further purification.

reactant | Methanesulfonyl chloride | 0.63 mmol, 50 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | [(2R,3R,4R)-2-[(1R)-1-(3,5-bis(trifluoromethyl)phenyl)ethoxy]-3-(3,4-difluorophenyl)-tetrahydropyran-4-yl]methanol | 0.49 mmol, 235 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC(=C(C=C1)F)F)CO)(F)F | C22H20F8O3
reactant | triethylamine | 0.97 mmol, 133 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid [(2R,3R,4R)-2-[(1R)-1-(3,5-Bis(trifluoromethyl)-phenyl)ethoxy]-3-(3,4-difluorophenyl)-tetrahydropyran-4-yl]methyl ester | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC(=C(C=C1)F)F)COS(=O)(=O)C)(F)F | C23H22F8O5S
